US04024164
4-Benzoyloxy-2-butenyl erucate
4-Benzoyloxy-2-butenyl erucate was prepared by the procedure of Example 1 from 19 gms (0.1 mole) of 4-hydroxy-2-butenyl benzoate and 35.5 gms (0.1 mole) of erucoyl chloride. The structure of the final product was characterized on the basis of NMR and IR spectral analyses as described in Example 1.

reactant | 4-hydroxy-2-butenyl benzoate | 0.1 mole, 19 gms | C(C1=CC=CC=C1)(=O)OCC=CCO | C11H12O3
reactant | erucoyl chloride | 0.1 mole, 35.5 gms | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)Cl | C22H41ClO
product | 4-Benzoyloxy-2-butenyl erucate | C(CCCCCCCCCCC\C=C/CCCCCCCC)(=O)OCC=CCOC(C1=CC=CC=C1)=O | C33H52O4
